Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old woman with PMH ulcerative colitis and paroxysmal 
atrial fibrillation presents with severe back pain which started 
shortly after lifting a heavy object. She was cooking on the 
night of presentation when she had gradually worsening back pain 
over the course of the evening, peaking with severe spasms every 
few minutes.  She described the pain as sharp, spasmodic and 
localized to the upper back. It was not alleviated by Tylenol x2 
and Orphenadrine. She presented to the ED for evaluation of her 
back pain. Routine UA had + ___ and ___ bacteria.  Renal 
ultrasound done in the ED showed no nephrolithiasis or 
hydronephrosis. She denied dysuria, abdominal pain, fevers, 
urinary frequency, urinary hesitancy.

 
Past Medical History:
- Ulcerative colitis, s/p 
- h/o IMV and SMV thrombosis 
- Atrial fibrillation on apixiban
- Anxiety disorder and depression
- Hypertension
- Ovarian cyst
- Basal cell carcinoma
- Ulnar surgery
 
Social History:
___
Family History:
Daughter with ulcerative colitis and the other daughter with
juvenile rheumatoid arthritis.  No family history of Crohn's
disease, colon cancer, or colon polyps.  Her mother and father
are alive at ___ and ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.8 BP 124 / 70 102 18 96 RA 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
BACK: Mild R sided trapezius spasm, otherwise non-tender. Full
ROM. No CVAT.

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
BACK: Mild R sided tenderness throughout, otherwise non-tender. 
Full ROM. No CVAT. 
 
Pertinent Results:
ADMISSION LABS
___ 11:21PM BLOOD WBC-9.1 RBC-4.62 Hgb-12.2 Hct-36.8 
MCV-80* MCH-26.4 MCHC-33.2 RDW-14.8 RDWSD-42.7 Plt ___
___ 11:21PM BLOOD Neuts-80.4* Lymphs-14.4* Monos-4.0* 
Eos-0.2* Baso-0.8 Im ___ AbsNeut-7.28* AbsLymp-1.30 
AbsMono-0.36 AbsEos-0.02* AbsBaso-0.07
___ 11:21PM BLOOD Glucose-121* UreaN-24* Creat-1.0 Na-138 
K-4.5 Cl-104 HCO3-20* AnGap-14
___ 11:25PM BLOOD Lactate-1.4

___ 09:56PM URINE Blood-TR* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 09:56PM URINE RBC-12* WBC-77* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 09:56PM URINE CastHy-10*
___ 09:56PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 09:56PM URINE CaOxalX-RARE*
___ 09:56PM URINE Mucous-OCC*

DISCHARGE LABS (same as above)
Urine culture- no growth (final)
Blood culture- no growth x2 (final)
 
Brief Hospital Course:
SUMMARY:
=========
___ year old woman with PMH ulcerative colitis, paroxysmal atrial 
fibrillation and recurrent UTIs who presents with severe back 
pain and asymptomatic bacteriuria.

ACUTE ISSUES:
============
# Musculoskeletal Back pain
# Trapezius strain
The patient presented with acute onset back pain on ___ that 
started shortly after lifting a heavy object. It was described 
as sharp, spasmodic and localized to the upper back. It was not 
alleviated by Tylenol x2 and Orphenadrine. Given her history, 
exam and lack of neurological deficits, the pain was presumed to 
be musculoskeletal in origin, like a back spasm. In the ED, she 
received cyclobenzaprine and IV narcotics for pain control, and 
admitted for further management. In the hospital, the patient 
was encouraged ambulate frequently. Her pain was treated with a 
lidocaine patch, hot packs and Tylenol. She was discharged with 
a short prescription for valium which she was encouraged to only 
use if she has severe back spasms and outpatient follow up with 
physical therapy.

# Asymptomatic Bacteriuria
In the ED, a routine UA showed + ___ and ___ bacteria. The pt 
denied dysuria, abdominal pain, fevers, urinary frequency and 
urinary hesitancy. On further evaluation the patient had no 
fever, leukocytosis, or signs or symptoms of a urinary tract 
infection. She had a CTU which was negative for nephrolithiasis 
or obstruction. She received one dose of Ceftriaxone in the ED 
for empiric therapy. Given that the patient was otherwise 
healthy and asymptomatic, antibiotics were discontinued in the 
hospital. Of note, the patient has a history of recurrent UTIs, 
which she reports have resolved since she started taking 
D-Mannose and Allegra per her urologist's recommendation. She 
should continue her home prophylaxis for UTIs and follow up with 
her PCP if she experiences any symptoms concerning for a UTI.

CHRONIC ISSUES:
===============
# Ulcerative colitis, s/p IPAA, in remission. Continued to 
monitor.

# Paroxysmal atrial fibrillation, ___. Continued on home 
ditiazem and apixaban. 

# HTN: Continued on home losartan.

# Depression: Continued home paroxetine.

TRANSITIONAL ISSUES:
====================
[] Follow up with your PCP ___ ___ days.
[] Follow up with outpatient physical therapy for 
musculoskeletal back pain
[] If she experiences severe back pain, okay to take ___ tablets 
of Valium as needed every 8 hours until spasm resolves
[] Please follow up for any urinary symptoms, and consider 
treatment of a possible urinary infection
[] Please follow up blood and urine cultures which were pending 
at discharge
 
Medications on Admission:
.1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. PARoxetine 10 mg PO DAILY 
4. Vitamin D ___ UNIT PO 1X/WEEK (___) 
5. Losartan Potassium 50 mg PO DAILY 
6. Fexofenadine Dose is Unknown  PO DAILY 
7. d-mannose    oral DAILY 

 
Discharge Medications:
1.  Diazepam 2.5 mg PO Q8H:PRN severe muscle spasms 
Take ___ tabs for severe muscle spasms. Do not take with alcohol 
or while driving 
RX *diazepam 5 mg 0.5 (One half) tabs by mouth every 8 hours 
Disp #*10 Tablet Refills:*0 
2.  Fexofenadine 60 mg PO DAILY  
3.  Apixaban 5 mg PO BID  
4.  d-mannose    oral DAILY  
5.  Diltiazem Extended-Release 120 mg PO DAILY  
6.  Losartan Potassium 50 mg PO DAILY  
7.  PARoxetine 10 mg PO DAILY  
8.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
1. Back spasm

SECONDARY DIAGNOSES
====================
1.Asymptomatic bacteriuria
2.Ulcerative colitis
Paroxysmal atrial fibrillation
Hypertension
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

WHY WERE YOU ADMITTED?

You came to ___ because you had back pain. You were found to 
muscle spasms in your back and bacteria in your urine. Please 
see more details listed below about what happened while you were 
in the hospital and your instructions for what to do after 
leaving the hospital.  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- Because of your history of frequent urinary infections, we 
looked for kidney infections or stones in your urine. We found 
some bacteria and inflammation but no signs of active infection. 
You were given one dose of antibiotics but this was stopped 
because you do not have an infection.
- We determined that your pain was from muscle spasms from 
lifting.
- We gave you some medications to help with the pain
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor ___ below)  
- Please take all of your medications as prescribed (see below)  

- Please try using heat packs, Tylenol for pain management. If 
you have severe spasms, please take valium ___ tablets. Please 
do not combine this medication with others and do not drive 
while taking this medication
- Seek medical attention if you have worsening back pain, pain 
with urination, fever, chills or other symptoms of concern.  

 
Followup Instructions:
___